US08133998B2
C. Synthesis of N-(3-chlorobenzyl)-3-(2-flourobenzyl)-4-oxo-3,4-dihydroquinazoline-7-carboxamide
3-(2-flourobenzyl)-4-oxo-3,4-dihydroquinazoline-7-carboylate (65 mg, 0.218 mmol was dissolved in DCM (10 mL) followed by the addition of DIEA (0.1 mL), HATU (100 mg) and 4-chlorobenzylamine (34 mg, 0.239 mmol). The mixture was stirred at RT overnight. The residue was semi-purified by flash chromatography and then further purified by rotary prep TLC using DCM-Ether (1:1) to give the desired product in 65% yield with HPLC purity of ≧95%.

reactant | 3-(2-flourobenzyl)-4-oxo-3,4-dihydroquinazoline-7-carboylate | FC1=C(CN2C=NC3=CC(=CC=C3C2=O)C(=O)[O-])C=CC=C1
reactant | DIEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-chlorobenzylamine | 0.239 mmol, 34 mg | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-chlorobenzyl)-3-(2-flourobenzyl)-4-oxo-3,4-dihydroquinazoline-7-carboxamide | 65% yield | ClC=1C=C(CNC(=O)C2=CC=C3C(N(C=NC3=C2)CC2=C(C=CC=C2)F)=O)C=CC1 | C23H17ClFN3O2
